US03997557
A solution of 80 g (0.28 mole) of p-bromophenacyl bromide in dry dimethylformamide is added dropwise to a cooled solution of 40.2 g (0.28 mole) of 1-pyrrolidino-1-cycloheptene in dry dimethylformamide. After stirring at ambient temperature for 24 hours, and at 100° C. for 5 hours, water is added and the mixture is stirred for an additional 4 hours. The reaction mixture is poured into 1500 ml. of water and extracted with chloroform. The chloroform solution is washed with water, dried, and evaporated to a red oil which is stirred at 100° for 1 hour under a high vacuum. Upon cooling the oil converts to a semi-solid. The semi-solid is crystallized from an ethanol - cyclohexane mixture to give 2-(p-bromophenacyl)cycloheptanone, m.p. 124°-127° C.

reactant | p-bromophenacyl bromide | 0.28 mole, 80 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | 1-pyrrolidino-1-cycloheptene | 0.28 mole, 40.2 g | N1(CCCC1)C1=CCCCCC1 | C11H19N
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(p-bromophenacyl)cycloheptanone | BrC1=CC=C(C(CC2C(CCCCC2)=O)=O)C=C1 | C15H17BrO2
